US08541592B2
N-Cyclopropyl-N-(3-(5-methyl-4-oxo-2-((S)-1-(2-(trifluoromethyl)phenyl)-ethylamino)-4,5-dihydrothiazol-5-yl)propyl)furan-3-carboxamide
The mixture of 5-(3-(cyclopropylamino)propyl)-5-methyl-2-((S)-1-(2-(trifluoromethyl)-phenyl)ethylamino)thiazol-4(5H)-one (0.106 g, 0.265 mmol), 3-furoic acid (0.0297 g, 0.265 mmol), TBTU (0.0895 g, 0.279 mmol), and N,N-diisopropylethylamine (0.0555 ml, 0.318 mmol) in DMF (3.0 mL) was stirred at ambient temp. overnight. The mixture was partitioned between EtOAc and Na2CO3 (aq), and the combined organic portions were washed with brine. The solvents were removed in vacuo, and the residue was purified by flash column chromatography (0 to 100% of EtOAc in hexanes) to give the title compound as a white solid. MS m/z: 494.1 (M+H)+.

reactant | 5-(3-(cyclopropylamino)propyl)-5-methyl-2-((S)-1-(2-(trifluoromethyl)-phenyl)ethylamino)thiazol-4(5H)-one | 0.265 mmol, 0.106 g | C1(CC1)NCCCC1(C(N=C(S1)N[C@@H](C)C1=C(C=CC=C1)C(F)(F)F)=O)C | C19H24F3N3OS
reactant | 3-furoic acid | 0.265 mmol, 0.0297 g | O1C=C(C=C1)C(=O)O | C5H4O3
reactant | TBTU | 0.279 mmol, 0.0895 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | N,N-diisopropylethylamine | 0.318 mmol, 0.0555 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 3.0 mL | CN(C)C=O | C3H7NO
product | N-Cyclopropyl-N-(3-(5-methyl-4-oxo-2-((S)-1-(2-(trifluoromethyl)phenyl)-ethylamino)-4,5-dihydrothiazol-5-yl)propyl)furan-3-carboxamide | C1(CC1)N(C(=O)C1=COC=C1)CCCC1(C(N=C(S1)N[C@@H](C)C1=C(C=CC=C1)C(F)(F)F)=O)C | C24H26F3N3O3S
